US05073562
Methyl 3,4-dihydro-7-[3-[3-methoxy-2-propyl-4-(4-thiazolyl) -phenoxy]propoxy]-8-propyl-2H-1-benzopyran-2-carboxylate
Formamide (24 mL, 0.69 mmol), phosphorus pentasulfide (54 mg, 0.123 mmol) and 4 mL of dioxane were refluxed for 30 min. Methyl 7-[3-[4-(2-chloro-1-oxoethyl)-3-methoxy-2-propylphenoxy]propoxy]-3,4-dihydro-8-propyl-2H-1-benzopyran-2-carboxylate (30 mg, 0.056 mmol) in 0.5 mL dioxane was added along with 50 mg magnesium carbonate, and the mixture was refluxed for 18 hr. The reaction mixture was poured into ethyl ether/0.5 N sodium hydroxide, and the ether layer was washed with brine, dried over sodium sulfate, and concentrated. Flash chromatography of the concentrate using 10:1 hexane/ethyl acetate as eluant provided the product (30 mg, 0.055 mmol, 99% yield). High resolution mass spectrum, m/e 539.2335 (calculated for C30H37SO6N, 539.2341).

reactant | Formamide | 0.69 mmol, 24 mL | C(=O)N | CH3NO
reactant | phosphorus pentasulfide | 0.123 mmol, 54 mg | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | Methyl 7-[3-[4-(2-chloro-1-oxoethyl)-3-methoxy-2-propylphenoxy]propoxy]-3,4-dihydro-8-propyl-2H-1-benzopyran-2-carboxylate | 0.056 mmol, 30 mg | ClCC(=O)C1=C(C(=C(OCCCOC2=C(C3=C(CCC(O3)C(=O)OC)C=C2)CCC)C=C1)CCC)OC | C29H37ClO7
reactant | magnesium carbonate | 50 mg | C([O-])([O-])=O.[Mg+2]
solvent | dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | ethyl ether | 0.5 N | C(C)OCC | C4H10O
product | Methyl 3,4-dihydro-7-[3-[3-methoxy-2-propyl-4-(4-thiazolyl) -phenoxy]propoxy]-8-propyl-2H-1-benzopyran-2-carboxylate | 0.055 mmol, 30 mg, 99% yield | COC=1C(=C(OCCCOC2=C(C3=C(CCC(O3)C(=O)OC)C=C2)CCC)C=CC1C=1N=CSC1)CCC | C30H37NO6S
